US07842701B2
3-amino-2-[4-(2-hydroxyethyl)phenyl]-5-(4-methoxybenzyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 4-chloro-1-benzyl-2-oxo-1,2-dihydroquinoline-3-carbonitrile (0.6 g), 4-(2-hydroxyethyl)phenylhydrazine (0.24 g), triethylamine (0.27 ml) and ethanol (40 ml) was heated under reflux for 12 hours. The solvent was distilled off under reduced pressure, and an aqueous sodium hydrogen carbonate solution was added thereto and extracted with ethyl acetate. The extract was washed with water and brine, dried and concentrated. The residue was purified with silica gel column chromatography to obtain the target compound (0.47 g).

reactant | 4-chloro-1-benzyl-2-oxo-1,2-dihydroquinoline-3-carbonitrile | 0.6 g | ClC1=C(C(N(C2=CC=CC=C12)CC1=CC=CC=C1)=O)C#N | C17H11ClN2O
reactant | 4-(2-hydroxyethyl)phenylhydrazine | 0.24 g | OCCC1=CC=C(C=C1)NN | C8H12N2O
reactant | triethylamine | 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 3-amino-2-[4-(2-hydroxyethyl)phenyl]-5-(4-methoxybenzyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.47 g | NC=1N(N=C2C1C(N(C=1C=CC=CC21)CC2=CC=C(C=C2)OC)=O)C2=CC=C(C=C2)CCO | C26H24N4O3
